US07713973B2
tert-Butyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)piperazine-1-carboxylate
tert-Butyl 4-(3-bromobenzyl)piperazine-1-carboxylate (448 mg, 1.25 mmol), bis(pinacolato)diboron (352 mg, 1.38 mmol), potassium acetate (368 mg, 3.75 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (31 mg, 0.038 mmol) were combined in DMF (10 mL), and the reaction stirred at 80° C. under N2 for 4 h. The cooled solution was partitioned between EtOAc and water. Organics were washed with brine, dried (MgSO4), and concentrated in vacuo. Purification by silica gel chromatography (10% EtOAc/hexanes) gave 550 mg (90%) of the title compound as an oil. [M+H] calc'd for C22H36BN2O4, 403; found, 403.

reactant | tert-Butyl 4-(3-bromobenzyl)piperazine-1-carboxylate | 1.25 mmol, 448 mg | BrC=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C16H23BrN2O2
reactant | bis(pinacolato)diboron | 1.38 mmol, 352 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.75 mmol, 368 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.038 mmol, 31 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)piperazine-1-carboxylate | 550 mg, 90% | CC1(OB(OC1(C)C)C=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)C | C22H35BN2O4
